US07691843B2
3,4-Dimethoxy-5-pentylbenzoic acid methyl ester was prepared 3,4-dimethoxy-5-pent-3-enylbenzoic methyl ester by following Method H using EtOAc as a solvent. The reaction was conducted for 2.5 h under hydrogen atmosphere. The product, obtained in quantitative yield, was used without further purification.

reactant | 3,4-dimethoxy-5-pent-3-enylbenzoic methyl ester | COC(C1=CC(=C(C(=C1)CCC=CC)OC)OC)=O | C15H20O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3,4-Dimethoxy-5-pentylbenzoic acid methyl ester | quantitative yield | COC(C1=CC(=C(C(=C1)CCCCC)OC)OC)=O | C15H22O4
